US05484942
3.95 cm3 of acetic anhydride are added to a suspension of 2.7 g of 4,4-diphenyltetrahydrothiapyran 1-oxide in 30 cm3 of anhydrous toluene. The mixture is refluxed for 20 hours and concentrated to dryness at 60° C. under reduced pressure (2.7 kPa and then 0.13 kPa). The oily residue is crystallized from diisopropyl oxide, the crystals are drained and dried. 2.1 g of 3,4-dihydro-4,4-diphenyl-2H-thiapyran are obtained in the form of white crystals; melting point 78° C.

reactant | acetic anhydride | 3.95 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4,4-diphenyltetrahydrothiapyran 1-oxide | 2.7 g | C1(=CC=CC=C1)C1(CCS(CC1)=O)C1=CC=CC=C1 | C17H18OS
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-4,4-diphenyl-2H-thiapyran | 2.1 g | C1(=CC=CC=C1)C1(CCSC=C1)C1=CC=CC=C1 | C17H16S
